US03947580
By employing the procedures described in Example 1, p-fluorophenylacetonitrile is reacted with diethyl oxalate in alcoholic sodium ethoxide to give ethyl 3-cyano-3-(p-fluoro-phenyl)pyruvate. The latter is reacted with phenylacetonitrile and subsequent synthetic steps yield 4-fluoropulvinic acid lactone. The lactone ring is opened with 2-aminothiazole as described above to give 4-fluoro-N-(2-thiazolyl)pulvinic acid amide.

reactant | p-fluorophenylacetonitrile | FC1=CC=C(C=C1)CC#N | C8H6FN
reactant | diethyl oxalate | C(C(=O)OCC)(=O)OCC | C6H10O4
solvent | sodium ethoxide | [O-]CC.[Na+]
product | ethyl 3-cyano-3-(p-fluoro-phenyl)pyruvate | C(#N)C(C(C(=O)OCC)=O)C1=CC=C(C=C1)F | C12H10FNO3
